US08236826B2
Production of ethyl 4-[4-(5-nitropyridin-2-yloxy)phenyl]butanoate
To a solution of 4-[4-(5-nitropyridin-2-yloxy)phenyl]butanoic acid (9.98 g, 33.01 mmol) in dichloromethane were added ethanol (5.59 mL, 99.01 mmol), 4-dimethylaminopyridine (400 mg, 3.27 mmol), triethylamine (13.81 mL, 99.08 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7.6 g, 39.65 mmol) under ice cooling, and the resulting solution was stirred for 20 minutes under ice cooling and then for 1 hour at room temperature. The reaction solution was concentrated under reduced pressure. Water was added to the residue, and extracted with ethyl acetate, and the ethyl acetate layer was washed with 1 N hydrochloric acid, a saturated sodium bicarbonate solution and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1), to thereby yield 6.77 g of the title compound.

reactant | 4-[4-(5-nitropyridin-2-yloxy)phenyl]butanoic acid | 33.01 mmol, 9.98 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CCCC(=O)O | C15H14N2O5
reactant | ethanol | 99.01 mmol, 5.59 mL | C(C)O | C2H6O
reactant | triethylamine | 99.08 mmol, 13.81 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 39.65 mmol, 7.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.27 mmol, 400 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 4-[4-(5-nitropyridin-2-yloxy)phenyl]butanoate | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CCCC(=O)OCC | C17H18N2O5
